### PR TITLE
[Merged by Bors] - feat: glue zero rows/cols to TU matrices

### PR DESCRIPTION
**Pull request by madvorak**
Co-authored-by: Johan Commelin <johan@commelin.net>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 1]
```diff
@@ -76,11 +77,44 @@ lemma IsTotallyUnimodular.transpose {A : Matrix m n R} (hA : A.IsTotallyUnimodul
...
+  constructor <;> apply IsTotallyUnimodular.transpose
+
+lemma mapEquiv_isTotallyUnimodular {X' Y' : Type*} (A : Matrix m n R) (eX : X' ≃ m) (eY : Y' ≃ n) :
     IsTotallyUnimodular ((A · ∘ eY) ∘ eX) ↔ A.IsTotallyUnimodular := by
   rw [isTotallyUnimodular_iff, isTotallyUnimodular_iff]
   constructor <;> intro hA k f g
   · simpa [submatrix] using hA k (eX.symm ∘ f) (eY.symm ∘ g)
   · simpa [submatrix] using hA k (eX ∘ f) (eY ∘ g)
 
+lemma adjoin_row0s_isTotallyUnimodular_iff (A : Matrix m n R) {m' : Type*} :
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:91]: Not sure about this name...
```suggestion
lemma fromRows_row0_isTotallyUnimodular_iff (A : Matrix m n R) {m' : Type*} :
```

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 2]
```diff
@@ -76,11 +77,44 @@ lemma IsTotallyUnimodular.transpose {A : Matrix m n R} (hA : A.IsTotallyUnimodul
...
+          match hfi : f i with
+          | .inl x => ⟨x, rfl⟩
+          | .inr x => (zerow ⟨i, x, hfi⟩).elim
+        choose f₀ hf₀ using hi
+        use f₀
+        ext
+        apply hf₀
+      apply hA
+
+lemma adjoin_col0s_isTotallyUnimodular_iff (A : Matrix m n R) {n' : Type*} :
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:114]: Idem

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
